US04329351
To a flame dried flask under N2 was placed DMF (100 mL), (S)-2-phenyl-3-tert-butyl-5-hydroxymethyloxazolidine, (2.5 g, 0.01 mol) and NaH (50% oil dispersion, 0.5 g, 0.01 mol). The mixture was heated at 90° C. for 10 minutes, then cooled to 35° C. and a solution of 5-benzyloxy-2-chloronicotinonitrile (2.5 g, 0.01 mol) in DMF (25 mL) was added dropwise and allowed to stir at room temperature overnight. The mixture was poured into H2O and extracted with Et2O (3×). The organic layer was dried, filtered and concentrated. The residue was treated with 1 N HCl (150 mL) and heated on a steam bath. After 15 minutes, the aqueous solution was cooled, extracted with Et2O (2×), poured into saturated Na2CO3 solution and extracted with CH2Cl2 (3×). After concentration, the residue was crystallized as the maleate salt from isoPrOH/Et2O to yield 3.3 g (70%) of (S)-5-benzyloxy-2-(3-tert-butylamino-2-hydroxypropoxy)nicotinonitrile maleate mp 124°-6° C.; 1H NMR (DMSO-d6) δ1.3 (9H, s), 3.1 (2H, m), 4.2 (3H, m), 5.2 (2H, s), 6.05 (2H, s, olefinic protons of maleic acid), 7.4 (5H, bs) 8.1 (1H, d, J=3) and 8.25 (1H, d, J=3).

reactant | (S)-2-phenyl-3-tert-butyl-5-hydroxymethyloxazolidine | 0.01 mol, 2.5 g | C1(=CC=CC=C1)[C@@H]1OC(CN1C(C)(C)C)CO | C14H21NO2
reactant | NaH | 0.01 mol, 0.5 g | [H-].[Na+]
reactant | 5-benzyloxy-2-chloronicotinonitrile | 0.01 mol, 2.5 g | C(C1=CC=CC=C1)OC=1C=NC(=C(C#N)C1)Cl | C13H9ClN2O
reactant | H2O | O | H2O
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (S)-5-benzyloxy-2-(3-tert-butylamino-2-hydroxypropoxy)nicotinonitrile maleate | 3.3 g, 70% | C(\C=C/C(=O)O)(=O)O.C(C1=CC=CC=C1)OC=1C=NC(=C(C#N)C1)OC[C@H](CNC(C)(C)C)O | InChI=1S/C20H25N3O3.C4H4O4/c1-20(2,3)23-11-17(24)14-26-19-16(10-21)9-18(12-22-19)25-13-15-7-5-4-6-8-15;5-3(6)1-2-4(7)8/h4-9,12,17,23-24H,11,13-14H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1-/t17-;/m0./s1
